US08357524B2
(R)-mandelic acid (4.678 g, 30.75 mmol) was dissolved in 6M NaOH (50 mL, 300 mmol) and dimethyl sulfate (14.6 mL, 154 mmol) was added over 1 hr so that the temperature stayed at 50° C. After another hr of stirring, H2O (50 mL) was added, and the solution was acidified to pH 1 with 12M HCl. The mixture was saturated with NaCl, extracted with EtOAc (3×100 mL), and the extracts dried with Na2SO4. After filtration and evaporation under reduced pressure, the solid was pulverized, refluxed in hexanes (100 mL) for 15 min and hot filtered. The insoluble (R)-mandelic acid (2.71 g, 58%) was recovered, and the hexanes evaporated under reduced pressure to give (R)-2-methoxy-mandelic acid, (R)-3 (1.91 g, 37%) which was used directly in the next step.

reactant | (R)-mandelic acid | 30.75 mmol, 4.678 g | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | NaOH | 300 mmol, 6M, 50 mL | [OH-].[Na+]
reactant | dimethyl sulfate | 154 mmol, 14.6 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | HCl | 12M | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | H2O | 50 mL | O | H2O
product | (R)-2-methoxy-mandelic acid | COC1=C([C@H](C(=O)O)O)C=CC=C1 | C9H10O4
